US07825128B2
3) (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol
In the reaction of (R)-2-(2-chloro-5-iodopyrimidine-4-ylamino)propan-1-ol (400 mg, 1.3 mmol) with thiophen-2-boronic acid (e. g.: Aldrich, Acros, Apin) (179 mg, 1.4 mmol) according to procedure 3, the desired product is obtained in 70% yield (240 mg) after chromatographic purification (silica gel, ethyl acetate/hexane (0%-100% ethyl acetate)).

reactant | (R)-2-(2-chloro-5-iodopyrimidine-4-ylamino)propan-1-ol | 1.3 mmol, 400 mg | ClC1=NC=C(C(=N1)N[C@@H](CO)C)I | C7H9ClIN3O
reactant | thiophen-2-boronic acid | 1.4 mmol, 179 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
product | (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol | 70% yield | ClC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C11H12ClN3OS
